US06051712
13.8 g (100 mmol) of potassium carbonate were added to a solution of 10.0 g (46.8 mmol) of 4-(4-fluoro-phenyl)-1,2,3,6-tetrahydro-pyridine hydrochloride in 400 ml of ethanol and the reaction mixture was subsequently heated to reflux temperature. A solution of 5.8 ml (49 mmol) of benzyl bromide in 100 ml of ethanol was added dropwise within one hour and thereafter the mixture was stirred at this temperature for a further 1 hour. The reaction mixture was cooled to room temperature and filtered, the filtrate was extracted with water and ethyl acetate and finally the organic phase was dried over magnesium sulphate. After evaporation in a water-jet vacuum the crude product obtained was chromatographed on silica gel with hexane and ethyl acetate as the eluent. There were obtained 8.90 g (71% of theory) of 1-benzyl-4-(4-fluoro-phenyl)-1,2,3,6-tetrahydro-pyridine; MS: 267 (M)+.

reactant | potassium carbonate | 100 mmol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(4-fluoro-phenyl)-1,2,3,6-tetrahydro-pyridine hydrochloride | 46.8 mmol, 10.0 g | Cl.FC1=CC=C(C=C1)C=1CCNCC1
reactant | benzyl bromide | 49 mmol, 5.8 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethanol | 400 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-benzyl-4-(4-fluoro-phenyl)-1,2,3,6-tetrahydro-pyridine | 8.90 g, 71% | C(C1=CC=CC=C1)N1CCC(=CC1)C1=CC=C(C=C1)F | C18H18FN
